US05326497
12 g of 2-(4-bromophenyl)-5-(ethoxy)pyrimidine, 12 g of 2-acetoxy-3-butene, 10 g of N-tert.butylamine, 20 ml of N-methylpyrrolidone, 0.12 g of palladium(II) acetate and 0.3 g of triphenylphosphine were reacted in analogous manner to Example 1(d) to give 9 g of 2-[4-(3-acetoxy-1-butenyl)phenyl]-5-ethoxypyrimidine.

reactant | 2-(4-bromophenyl)-5-(ethoxy)pyrimidine | 12 g | BrC1=CC=C(C=C1)C1=NC=C(C=N1)OCC | C12H11BrN2O
reactant | 2-acetoxy-3-butene | 12 g | C(C)(=O)OC(C)C=C | C6H10O2
reactant | N-tert.butylamine | 10 g | C(C)(C)(C)N | C4H11N
catalyst | palladium(II) acetate | 0.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[4-(3-acetoxy-1-butenyl)phenyl]-5-ethoxypyrimidine | 9 g | C(C)(=O)OC(C=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCC)C | C18H20N2O3
